US04152441
In the course of one hour, 64 ml. (0.105 mol) of 15% butyl lithium in n-hexane were added dropwise at -65° to -70° C. and under a nitrogen atmosphere, to a solution of 19.3 g (0.1 mol) of 1-(p-chlorobenzyl)imidazole (prepared from the oxalate described under (A) and 12.2 g (0.105 mol) of N,N,N',N'-tetramethylethylenediamine in 150 ml. of anhydrous tetrahydrofuran. The reaction mixture was stirred for one hour and then a suspension of 25.1 g (0.1 mol) of 4,4'-dichlorobenzophenone in 150 ml. of anhydrous tetrahydrofuran was added quickly under the same reaction conditions. Stirring was continued for one hour and then the cooling means was removed and the reaction mixture was kept standing overnight at room temperature. 20 ml. of water were added and the organic phase was separated off and concentrated. The residue was suspended in a mixture of water and diethyl ether. The solid matter formed was filtered off and the ethereal layer was separated off, dried over sodium sulphate and concentrated. The residue was twice crystallised from methanol. 1-(p-Chlorobenzyl)-α,α-bis-(p-chlorophenyl)imidazole-2-methanol was obtained. Melting point 171°-173° C.

reactant | butyl lithium | 0.105 mol | C(CCC)[Li]
reactant | 1-(p-chlorobenzyl)imidazole | 0.1 mol, 19.3 g | ClC1=CC=C(CN2C=NC=C2)C=C1 | C10H9ClN2
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
reactant | N,N,N',N'-tetramethylethylenediamine | 0.105 mol, 12.2 g | CN(CCN(C)C)C | C6H16N2
reactant | 4,4'-dichlorobenzophenone | 0.1 mol, 25.1 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(p-Chlorobenzyl)-α,α-bis-(p-chlorophenyl)imidazole-2-methanol | ClC1=CC=C(CN2C(=NC=C2)C(O)(C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)C=C1 | C23H17Cl3N2O
